Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins / Tetracycline / Grapefruit / Amoxicillin / Tegaderm
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ multiple comorbidities presents with 8 hrs of mid/epigastric 
abdominal pain, nausea and nonbillous emesis, CT suggestive of 
partial small bowel obstruction. 

Patient reports she has been feeling her general state of health 
at her assisted living facility, had a sandwich for dinner and 
woke up at 12am with severe epigastric pain with extreme nausea 
and clear emesis x6. She has been passing flatus and last BM was 
last night and in the ED.  Upon presentation to the ED, patient 
had normal vitals, labs notable for normal WBC, N 79%, chem and
LFTs. CT scan w/IV contrast showed dilated fluid filled loops of 
jejunum without any transition point c/f low grade partial small 
bowel obstruction. An NGT was placed which drained about 200cc 
of clear/saliva-like fluid. Patient received zofran and 1L NS 
bolus. She currently reports persistent ___ epigastric pain and 
right knee pain. She had one episode of 20cc emesis in ED. She 
has never had an EGD;her last c-scope was ___ notable for 
diverticulosis. She denies any fevers, chills, weight loss, 
BRBPR, melena or dysuria.

 
Past Medical History:
From ___ - confirmed with patient

PAST MEDICAL HISTORY:  
- Severe idiopathic axonal sensorimotor polyneuropathy  
* initial sx in ___ (weakness and sensory loss in legs -->  
abdomen --> arms)  
* responsive to plasmapheresis (last sessions ___, 
___  
* prior evaluation (per Dr. ___ dated ___:  
- Sural nerve biopsy: marked loss of large and small myelinated  

axons  
- Vitamin B12 deficiency  

*Past D/c Summary also lists DM2 but patient not on therapy for 
DM2
- HTN  
- DM (type II)  
- GERD  
- Depression  
- Diverticulosis  
.  
PAST SURGICAL HISTORY:  
- c-section x 2  
- hysterectomy for leiomyomata  
- left breast lumpectomy  
- bilateral knee replacements  
- portacath (since removed)  
- surgery related to recent abdominal hematoma related to sc  
heparin  
 
Social History:
___
Family History:
from OMR
- negative for neurological conditions
- positive for DM (mother, brother), malignancy (mother - liver, 
cervical, colon; father - lung), CAD (mother)

 
Physical Exam:
PHYSICAL EXAM:
98.0  73  152/64  20  96%RA
GEN: A&O, morbidly obese, NGT in place, uncomfortable
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, obese, nondistended, tender to deep palpation in
epigastric, periumbilical region, no rebound or guarding,
no palpable masses
Ext: No ___ edema, ___ warm and well perfused

Discharge Physical Exam:
VS: 99.0, 67, 142/62, 18, 99%ra
GEN: AA&O x 3, NAD, calm, cooperative.
HEENT: (-)LAD, mucous membranes moist, trachea midline, EOMI, 
PERRL.
CHEST: Clear to auscultation bilaterally, (-) cyanosis.
ABDOMEN: (+) BS x 4 quadrants, soft, non tender to palpation, 
non-distended. EXTREMITIES: Warm, well perfused, pulses 
palpable, no edema.
 
Pertinent Results:
___ 09:20AM BLOOD WBC-6.3 RBC-4.52 Hgb-13.8 Hct-41.2 MCV-91 
MCH-30.5 MCHC-33.4 RDW-14.0 Plt ___
___ 05:30AM BLOOD WBC-5.7 RBC-4.80 Hgb-14.7 Hct-43.9 MCV-92 
MCH-30.6 MCHC-33.4 RDW-14.0 Plt ___
___ 09:20AM BLOOD Glucose-105* UreaN-12 Creat-0.9 Na-141 
K-3.8 Cl-102 HCO3-27 AnGap-16
___ 05:30AM BLOOD Glucose-143* UreaN-14 Creat-1.0 Na-142 
K-4.0 Cl-101 HCO3-30 AnGap-15
___ 05:30AM BLOOD ALT-19 AST-21 AlkPhos-96 TotBili-0.4

ABD/PELVIC CT:
1. Dilated loops of jejunum in the left upper quadrant may 
represent focal ileus or less likely internal hernia. No 
definite transition point is  identified. No free air free 
fluid. 2. Pancolonic diverticulosis without diverticulitis. 

 
Brief Hospital Course:
___ multiple comorbidities presents with 8 hrs of mid/epigastric 
abdominal pain, nausea and nonbillous emesis, CT suggestive of 
partial small bowel obstruction. Her bowel obstruction is low 
grade on imaging and patient is not obstructed functionally. The 
patient is significantly symptomatic and is admitted to ___ 
service for serial abdominal exams with bowel rest and 
hydration. The patient was hemodynamically stable. 

On HD#2, the patient has a resolution of bowel obstruction, 
reporting large bowel movement and flatus. Diet was 
progressively advanced as tolerated to a regular diet with good 
tolerability. The patient voided without problem. During this 
hospitalization, the patient remained at her baseline activity 
of transferring to and from the bed independantly, was adherent 
with respiratory toilet and incentive spirometry, and actively 
participated in the plan of care. The patient received 
subcutaneous heparin and venodyne boots were used during this 
stay.
.
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, voiding without assistance, and pain was resolved.  The 
patient was discharged back to her assisted living residence. 
The patient received discharge teaching and follow-up 
instructions with understanding verbalized and agreement with 
the discharge plan.

 
Medications on Admission:
1. Amlodipine 5 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. BuPROPion 100 mg PO BID 
4. Docusate Sodium 100 mg PO BID 
5. Gabapentin 100 mg PO BID 
6. Ondansetron 4 mg PO ONCE MR1 Duration: 1 Dose 
RX *ondansetron 4 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*20 Tablet Refills:*0
7. Sertraline 100 mg PO DAILY 
8. Simvastatin 20 mg PO DAILY 

 
Discharge Medications:
1. Amlodipine 5 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. BuPROPion 100 mg PO BID 
4. Docusate Sodium 100 mg PO BID 
5. Gabapentin 100 mg PO BID 
6. Ondansetron 4 mg PO ONCE MR1 Duration: 1 Dose 
RX *ondansetron 4 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*20 Tablet Refills:*0
7. Sertraline 100 mg PO DAILY 
8. Simvastatin 20 mg PO DAILY 
9. TraMADOL (Ultram) 50 mg PO QID 
RX *tramadol [Ultram] 50 mg 1 tablet(s) by mouth four times a 
day Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Partial small bowel obstruction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___